US06054448
v) Methyl cis-2-isocyanato-2-(3-methoxycarbonyl cyclobutyl)-3-naphthylpropanoate
A mixture of cis-2-methoxycarbonyl-2-(3-methoxy carbonylcyclobutyl)-3-naphthylpropanoic acid (0.25 g, 0.68 mmol), dry triethylamine (72 mg, 0.71 mmol) and diphenylphosphonic azide (0.2 g, 0.71 mmol) in dry toluene (10 ml) was heated with stirring at 80° C. under a nitrogen atmosphere for 20 hours. After cooling the reaction mixture, water was added and the organic phase separated. The aqueous phase was extracted with diethyl ither and the combined organic phases dried, filtered and evaporated to an oil. The crude product was purified by chromatography on flash silica eluting with diethyl ether-hexane (1:1) to give the title compound as a white solid.

reactant | cis-2-methoxycarbonyl-2-(3-methoxy carbonylcyclobutyl)-3-naphthylpropanoic acid | 0.68 mmol, 0.25 g | COC(=O)C(C(=O)O)(CC1=CC=CC2=CC=CC=C12)[C@@H]1C[C@@H](C1)C(=O)OC | C21H22O6
reactant | triethylamine | 0.71 mmol, 72 mg | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphonic azide | 0.71 mmol, 0.2 g | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | water | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl cis-2-isocyanato-2-(3-methoxycarbonyl cyclobutyl)-3-naphthylpropanoate | N(=C=O)C(C(=O)OC)(CC1=CC=CC2=CC=CC=C12)[C@@H]1C[C@@H](C1)C(=O)OC | C21H21NO5
